US03933886
1,4-Bis-(ω-ethoxycarbonyl-acetylamino)-2-nitrobenzene
15.3 gm (0.1 mol) of 1,4-diamino-2-nitrobenzene were heated in 160 ml of absolute benzene together with 30.1 gm (0.2 mol) of malonic acid monoethylester chloride for 31/2 hours at refluxing. After cooling the precipitate was suctioned off and recrystallized twice from isopropanol. The product had a melting point of 96°-97°C.

reactant | 1,4-diamino-2-nitrobenzene | 0.1 mol, 15.3 gm | NC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H7N3O2
reactant | malonic acid monoethylester chloride | 0.2 mol, 30.1 gm | [Cl-].C(C)OC(CC(=O)O)=O
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
product | 1,4-Bis-(ω-ethoxycarbonyl-acetylamino)-2-nitrobenzene | C(C)OC(=O)CC(=O)NC1=C(C=C(C=C1)NC(CC(=O)OCC)=O)[N+](=O)[O-] | C16H19N3O8
